US05525524
Synthesis of N-[4-(5-carboxypentylcarbamoyl)-cyclohexylmethyl]-2-(carboxy)ethyl thiosuccinimide (CCM-MPA)
SMCC-caproate (0.01 g, 2.86×10-5 mol) was dissolved in 0.071 ml pyridine and 0.016 ml (6.4×10-6 mol) of the solution aliquoted into a test tube. Mercaptopropionic acid (0.0056 ml of 1.15M solution in dimethylformamide, 6.4×10-6 mol) was added to the tube, the solution gassed with argon, and the tube sealed. After 12 hr at room temperature, no thiol remained (as determined by reaction with DTNB) and the solvents were removed in vacuo. The residue was dissolved in 0.03 ml of 0.2M potassium phosphate, pH 7, to make a 213 mM solution of the desired compound (see FIG. 1D).

reactant | SMCC caproate | 2.86×10-5 mol, 0.01 g | C1CC(CCC1CN2C(=O)C=CC2=O)C(=O)ON3C(=O)CCC3=O.C(CCCCC)(=O)[O-]
reactant | Mercaptopropionic acid | 6.4×10-6 mol, 1.15M, 0.0056 ml | C(CS)C(=O)O | C3H6O2S
reactant | DTNB | C1=CC(=C(C=C1SSC2=CC(=C(C=C2)[N+](=O)[O-])C(=O)O)C(=O)O)[N+](=O)[O-] | C14H8N2O8S2
reactant | pyridine | 0.071 ml | N1=CC=CC=C1 | C5H5N
product | N-[4-(5-carboxypentylcarbamoyl)-cyclohexylmethyl]-2-(carboxy)ethyl thiosuccinimide | C(=O)(O)CCCCCNC(=O)C1CCC(CC1)CN1C(C(CC1=O)CCC(=O)O)=S | C21H32N2O6S
